Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
naproxen
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Briefly, Ms. ___ is a ___ F with PMH COPD (intermittent 
home O2) on prednisone for exacerbation, ?OSA, tobacco abuse, 
"micro strokes," hypothyroidism, HTN, HLD, who transferred from 
OSH for management of acute renal failure and pelvic hematoma 
after being treated for DVT (despite lack of evidence for DVT) 
with coumadin.  She presented to OSH on ___ with acute onset of 
abdominal pain.  She was found to have WBC was 15.5, INR 2.3, Cr 
1.0 (baseline unknown), HCT 33 (unclear baseline).  CT showed 
large rectus sheath hematoma tracking along the pelvic sidewall 
measuring 14x8x7cm and compressing the left ureter, also showed 
pericardial effusion.  Echo showed LVEF 55-60%, small 
circumferential effusion.  Renal ultrasound showed left 
hydronephrosis.  Her HCT trended down from 33.2 to 24.5 and WBC 
increased from 15.5 to 26.2 prior to transfer. She was treated 
with 4UFFP and 2U PRBCs, HCT increased to 29.6 and INR 1.0 on 
transfer.  In addition, she developed low grade temperatures 
99.5 (Tmax 100.1) and she was started on vancomycin and zosyn 
out of concern for infection.  

On arrival to ___, VS were 100.4 104/60 86 18 92-98% 1L NC
patient was notably altered. She reports worsening abdominal 
pain. She also reports the urge to urinate despite having a 
catheter in place. 

This morning, she reports that she was able to get some sleep, 
her abdomen is still tender, but pain is ___ compared to ___ 
when she was initially admitted to OSH.

Upon further review of OSH records, patient was found to have 
apical ballooning of LV with apical akinesis c/w Takotsubo CM 
with EF 35-40%.  Repeat echo showed apical hypokinesis with 
EF50%.  The patient was subsequently started on AC enlight of 
these findings.

ROS: per HPI, denies fever, chills, night sweats, headache, 
vision changes, rhinorrhea, congestion, sore throat, cough, 
shortness of breath, chest pain, abdominal pain, nausea, 
vomiting, diarrhea, constipation, BRBPR, melena, hematochezia, 
dysuria, hematuria.  
 

 
Past Medical History:
- COPD, on 5L NC at home. Continued smoker. Respiratory failure 
@ ___ on CPAP.  
- Smoker  
- MVA in ___ s/p back surgery with rod placement  
- PID, s/p ex lap many years ago  
- Cholelithiasis  
- Hypothyroidism  
- Hypertension  
- Hyperlipidemia  

 
Social History:
___
Family History:
NC
 
Physical Exam:
ADMISSION EXAM:
GENERAL - Well-appearing * yo M/F who appears comfortable, 
appropriate and in NAD  
HEENT - NC/AT, PERRL, EOMI, sclerae anicteric, MMM, OP clear  
NECK - supple, no thyromegaly, no JVD, no carotid bruits  
LUNGS - Lungs are clear to ausculatation bilaterally, moving air 
well and symmetrically, resp unlabored, no accessory muscle use  

HEART - PMI non-displaced, RRR, S1-S2 clear and of good quality 
without murmurs, rubs or gallops  
ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no 
rebound/guarding  
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, DPs) 
 
NEURO - awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, sensation grossly intact throughout, DTRs 2+ and 
symmetric  

DISCHARGE EXAM:
VS:98.3 136/72 71 18 96%2L
GENERAL - Well-developed female, sitting up in bed, NAD
HEENT - NC/AT, PERRL, EOMI, sclerae anicteric, dry, OP clear  
NECK - supple, no thyromegaly, no JVD, no carotid bruits  
LUNGS: coarse breath sounds with faint wheezing
HEART - RRR, normal S1S2 II/VI systolic murmur at apex
ABDOMEN - soft, degree of distention unchanged, minimally TTP 
over lower quadrants, +BS
EXTREMITIES - WWP, no c/c/e, b/l ___ pulses dopplerable (radials, 
DPs), 2+ ___ non-pitting, edema worse over feet, extending to 
knee, L>R 
NEURO - awake, A&Ox3, CN II-XII grossly intact, sensation and 
strength grossly intact in b/l UE and ___.  Gait normal.

 
Pertinent Results:
ADMISSION LABS:
___ 09:31PM   WBC-21.7* RBC-2.64* HGB-8.4* HCT-24.4* MCV-93 
MCH-31.8 MCHC-34.3 RDW-14.4
___ 09:31PM   NEUTS-89.1* LYMPHS-5.7* MONOS-4.8 EOS-0.1 
BASOS-0.3
___ 09:31PM   PLT COUNT-209
___ 09:31PM   GLUCOSE-107* UREA N-25* CREAT-1.4* SODIUM-139 
POTASSIUM-4.4 CHLORIDE-104 TOTAL CO2-26 ANION GAP-13
___ 09:31PM   CALCIUM-8.2* PHOSPHATE-2.7 MAGNESIUM-2.2

CXR ___:
IMPRESSION:    
Both lower lobes are severely atelectatic, possibly collapse.  
Small bilateral pleural effusions may be present.  Upper lungs 
clear.  Heart size mildly enlarged. 
  
Although this is marked as an upright radiograph, there is no 
fluid level in the stomach to confirm that.  There is a 
suggestion of subdiaphragmatic free air outlining both sides of 
an upper abdominal loop in the midline.  Truly upright or left 
decubitus view of the upper abdomen is recommended.  Dr. ___ 
was paged and Dr ___ discussed the findings by telephone 
at the time of dictation. 
  
___. ___ 

___ U/S ___:
IMPRESSION:  No DVT of the left lower extremity.
___. ___ 
___. ___ 

___ ___:
The left atrium is mildly dilated. No atrial septal defect is 
seen by 2D or color Doppler. The estimated right atrial pressure 
is at least 15 mmHg. Left ventricular wall thickness, cavity 
size and regional/global systolic function are normal (LVEF 
>55%). No masses or thrombi are seen in the left ventricle. 
There is no ventricular septal defect. Right ventricular chamber 
size and free wall motion are normal. The diameters of aorta at 
the sinus, ascending and arch levels are normal. The aortic 
valve leaflets (3) are mildly thickened but aortic stenosis is 
not present. Trace aortic regurgitation is seen. The mitral 
valve leaflets are mildly thickened. There is no mitral valve 
prolapse. Mild (1+) mitral regurgitation is seen. The tricuspid 
valve leaflets are mildly thickened. There is moderate pulmonary 
artery systolic hypertension. There is a small pericardial 
effusion. There are no echocardiographic signs of tamponade.   
___, MD

DISCHARGE LABS:

___ 10:18AM BLOOD WBC-11.2* RBC-3.55* Hgb-11.3* Hct-34.4* 
MCV-97 MCH-31.7 MCHC-32.7 RDW-14.8 Plt ___
___ 10:18AM BLOOD Plt ___
___ 10:18AM BLOOD Glucose-129* UreaN-12 Creat-0.7 Na-140 
K-4.8 Cl-104 HCO3-28 AnGap-13
___ 06:50AM BLOOD Calcium-8.2* Phos-3.1 Mg-2.___SSESSMENT/PLAN:
___ with extensive PMH including COPD on home O2, tobacco abuse, 
?OSA presenting from OSH with rectal sheath hematoma and ARF.

# Abdominal Pain: Initially thought to be ___ pelvic hematoma. 
Exam initially concerning for acute abdomen possibly from 
hematoma/hemoperitoneum.  Lactate was normal. STAT CXR without 
free air under diaphragm, but was not an upright film.  
Abdominal pain still there but improved.  HCT stable at 31.9. 
Repeat CT abdomen showed slightly larger hematoma but no active 
extravasation and organizing components suggesting that her body 
is beginning to heal.  ACS is ok with her progress as long as 
HCT remains stable and has signed off. She was initially treated 
with IV pain meds then switched to PO.  She should continue to 
have serial abdominal exams at rehab and physician should be 
notified if any acute changes in abdominal distention.

# Anemia: HCT was stable ___ hours but decreased to 21.6.  She 
may have continued bleeding from intraabdominal source. Patient 
may have slow ooze from known hematoma.  She received 2UPRBC and 
HCT is slowly increasing, and was 34.2 on discharge.  
Reticulocyte count was 3.7 indicating appropriate BM response to 
anemia.  HCT should be monitored weekly while in rehab.

# Hematuria: unclear etiology. Urology thought could be ___ to 
pelvic hematoma and would presume that would resolve with 
resolution of clot.  However, may also be ___ to traumatic foley 
insertion, but foley has been out for >48hr and hematuria 
continues.  Repeat u/a showed less RBCs which is promising.  CT 
abdomen showed mass effect on bladder, but her kidney function 
continues to be stable.  Urine cytology was negative for 
malignancy.  She should f/u with urology upon discharge for 
continued monitoring.

#LLE edema: Concerning for DVT, but ___ was negative.  
Patient reports that this she has had ___ edema L>R for years, 
will multiple u/s in the past that was negative.  Currently 
likely ___ to venous or lymphatic congestion from left sided 
pelvic hematoma. Repeat ___ ultrasound was negative for DVT.

#Takotsubo: Upon further review of OSH records, patient was 
found to have apical ballooning of LV with apical akinesis c/w 
Takotsubo CM with EF 35-40%.  Repeat echo showed apical 
hypokinesis with EF50%.  The patient was subsequently started on 
AC enlight of these findings.  Repeat Echo was normal and given 
complications of AC, continued AC was not started.

# ARF: ___ be multifactorial and ___ to hypovolemia versus 
bleeding from elevated INR. Last Cr at OSH 1.8. Normal baseline, 
Cr normalized today at 0.7. No need for intervention per Urology 
recs.  Urine cytology was negative for malignancy.

# Fever, Leukocytosis: Unclear etiology. Infectious v. 
inflammatory. Hematoma could explain both however given 
concerning exam, would cover broadly for intra-abdominal source. 
Will discontinue abx for now and monitor clinically.  WBC could 
be ___ steroids, patient has been afebrile today.  If she 
becomes febrile will need ___ vs. surgical drainage of hematoma 
for culture. She remained afebrile with initially elevated WBC 
which could be attributed to systemic corticosteroids for COPD 
exacerbation.  She continued to be afebrile during her 
hospitalization and was not treated with Abx.

# COPD: recent flare, on steroids for taper.  SOB may be 
complicated by increased abdominal pressure.  CXR was 
essentially unchanged from prior.  She was treated with long 
prednisone taper, Albuterol and ipratroprium meds and albuterol 
prn as well.

# Altered Mental Status: Patient with several reasons for 
delirium including ?infection v. intra-abdominal source. Other 
prcoesses including primary CNS, med effect, toxic metabolic.  
CT head yesterday showed chronic changes, but no concerns for 
acute changes.  Acute change possibly ___ to acute delirium ___ 
multiple different hospitals over the last 3 weeks.  She should 
have OT evaluation at rehab and f/u with Cognitive Neurology. 

# Hypertension: hold medications given current clinical status.  
Patient with lower bp this morning that over last 48hours 
concerning for developing SIRS.  However, is likely ___ 
hypovolemia in setting of known rectal sheath hematoma.  She may 
have had continued bleeding after getting 2U at OSH and her own 
BM has yet to compensate for acute blood loss. Encouragingly she 
is not tachycardic, has been afebrile, WBC is normal, and is not 
tachypneic.  She responded appropriately to IVF and BP remained 
stable while hospitalized.  BP meds were NOT restarted while 
hospitalized.  These should be restarted when appropriate as an 
outpatient.

# Hypothyroidism: continue home medications

TRANSITIONAL ISSUES:
- Patient needs f/u with urology for Hematuria
- Patient should have OT eval at rehab and Cognitive Neurology 
follow-up.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Guaifenesin ER 600 mg PO Q12H 
2. Aspirin 81 mg PO DAILY 
3. BusPIRone 50 mg PO BID 
4. Diltiazem Extended-Release 180 mg PO DAILY 
hold for sbp < 100 and hr < 60 
5. Fluoxetine 20 mg PO DAILY 
6. Gabapentin 800 mg PO TID 
7. Levothyroxine Sodium 50 mcg PO DAILY 
8. Lisinopril 5 mg PO DAILY 
hold for sbp < 100 
9. Nicotine Patch 21 mg TD DAILY 
10. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
11. Albuterol-Ipratropium ___ PUFF IH Q4H:PRN sob 
12. PredniSONE 40 mg PO DAILY 
Tapered dose - DOWN 
13. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
14. Acetaminophen 650 mg PO Q6H:PRN pain 
15. Zolpidem Tartrate 5 mg PO HS:PRN pain 
16. Lorazepam 0.5 mg PO Q4H:PRN anxiety 
17. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
18. Tiotropium Bromide 1 CAP IH DAILY 
19. Pravastatin 20 mg PO DAILY 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. BusPIRone 50 mg PO BID 
3. Fluoxetine 20 mg PO DAILY 
4. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
5. Gabapentin 800 mg PO TID 
6. Levothyroxine Sodium 50 mcg PO DAILY 
7. Nicotine Patch 21 mg TD DAILY 
8. Pravastatin 20 mg PO DAILY 
9. PredniSONE 10 mg PO DAILY 
1 pill on ___, then ___ pill for three days then stop. 
Tapered dose - DOWN 
10. Albuterol 0.083% Neb Soln 1 NEB IH Q6H dyspnea, shortness of 
breath 
11. Albuterol 0.083% Neb Soln 1 NEB IH Q2H:PRN sob, wheezing 
12. Famotidine 20 mg PO BID 
13. HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN pain 
RX *hydromorphone [Dilaudid] 2 mg ___ tablet(s) by mouth Every 
___ Disp #*60 Tablet Refills:*0
14. Ipratropium Bromide Neb 1 NEB IH Q6H shortness of breath, 
dyspnea 
15. Nicotine Lozenge 2 mg PO Q2H:PRN urge to smoke 
16. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
17. Lorazepam 0.5 mg PO Q4H:PRN anxiety 
18. Tiotropium Bromide 1 CAP IH DAILY 
19. Zolpidem Tartrate 5 mg PO HS:PRN pain 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Rectal Sheath Hematoma (bleeding into abdomen)
Hematuria (Blood in your urine)

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___, you were admitted to ___ 
___ after being transferred from an outside hospital with 
complaints of worsening abdominal pain.  You were found to have 
blood in your abdomen that was compressing your kidneys.  This 
is likely a complication of being on blood thinners for your 
heart condition.  Your blood counts were low and you recieved 
transfusion of blood while in the hospital and your blood counts 
have continued to be stable.  An ultrasound of your heart showed 
that your heart is functioning much better and you no longer 
need to be on blood thinners. 

We also took a picture of your head and you were not having any 
bleeding in the brain making us pretty sure that you did not 
have a stroke.  However, you will have follow-up with Cognitive 
Neurology to assess the cause and extent of your memory 
impairment.

While in the hospital you had blood in your urine.  This was 
evaluated by the kidney doctors and repeat tests of your urine 
showed improved kidney function and less blood in the urine.  
However, you should be followed-up as an outpatient by a Kidney 
specialist.

You worked with Physical Therapy while in the hospital and your 
COPD treatment was continued.  You oxygen levels were low while 
you walked and it was recommended that you be discharged to a 
Rehabilitation Hospital where you can continue to get physical 
therapy while your lungs recover.

Please see below for your follow-up appointments.

It was a pleasure caring for you and we wish you a speedy 
recovery.

 
Followup Instructions:
___